US04171366
24.6 g (0.1 mole) of 5-methyl-benzo[f]thieno[2,3-b]thiepin-4(5H)-one [see British Patent No. 1,334,538 and U.S. Pat. No. 3,682,959) is suspended in 350 ml of abs. ethanol, and to the suspension is added at 8°, with stirring, 3.8 g (0.1 mole) of sodium borohydride. The mixture is then stirred for 15 hours at room temperature. The clear solution is concentrated in vacuo, and the oily residue is taken up in methylene chloride. The solution is washed twice with water, dried over sodium sulphate and concentrated by evaporation, and the residue is dried in vacuo. The 4,5-dihydro-5-methyl-benzo[f]thieno[2,3-b]thiepin-4-ol thus obtained is a white, slightly sticky, solid mass, and is further processed as crude product.

reactant | 5-methyl-benzo[f]thieno[2,3-b]thiepin-4(5H)-one | 0.1 mole, 24.6 g | CC1C(C2=C(SC3=C1C=CC=C3)SC=C2)=O | C13H10OS2
reactant | sodium borohydride | 0.1 mole, 3.8 g | [BH4-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4,5-dihydro-5-methyl-benzo[f]thieno[2,3-b]thiepin-4-ol | CC1C(C2=C(SC3=C1C=CC=C3)SC=C2)O | C13H12OS2
